US09227978B2
1-(3-(4-Acryloylpiperazin-1-yl)-3-oxopropyl)-5-bromo-4-methylpyridin-2(1H)-one
A mixture of 3-(5-Bromo-4-methyl-2-oxopyridin-1(2H)-yl)propanoic acid (112 mg, 0.43 mmol), 1-(piperazin-1-yl)prop-2-en-1-one (80 mg, 0.43 mmol), HATU (163 mg, 0.43 mmol) and Et3N (0.2 mL, 1.43 mmol) in DMF (5 mL) was stirred at room temperature for 2 h. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via Isolera One (silica cartridge, 0-6% MeOH/DCM) to afford the desired product (22.8 mg, 14 yield). 1H NMR (300 MHz, CDCl3) δ: 7.73 (s, 1H), 6.55 (dd, J=10.5, 16.7 Hz, 1H), 6.46 (s, 1H), 6.32 (dd, J=1.8, 16.8 Hz, 1H), 5.75 (dd, J=1.8, 10.5 Hz, 1H), 4.20 (t, J=6.0 Hz, 2H), 3.4-3.6 (m, 8H), 2.86 (t, J=6.0 Hz, 2H), 2.22 (s, 3H). ESI-MS m/z: 382.05 [M+H]+.

reactant | 3-(5-Bromo-4-methyl-2-oxopyridin-1(2H)-yl)propanoic acid | 0.43 mmol, 112 mg | BrC=1C(=CC(N(C1)CCC(=O)O)=O)C | C9H10BrNO3
reactant | 1-(piperazin-1-yl)prop-2-en-1-one | 0.43 mmol, 80 mg | N1(CCNCC1)C(C=C)=O | C7H12N2O
reactant | HATU | 0.43 mmol, 163 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1.43 mmol, 0.2 mL | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(3-(4-Acryloylpiperazin-1-yl)-3-oxopropyl)-5-bromo-4-methylpyridin-2(1H)-one | 22.8 mg | C(C=C)(=O)N1CCN(CC1)C(CCN1C(C=C(C(=C1)Br)C)=O)=O | C16H20BrN3O3
